US06673811B1
F. Preparation of 5-(1-Methyl-piperidin-4-yloxy)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic Acid Pyridin-2-ylamide
AlMe3 (0.3 mL, 0.59 mmol, 2 M in PhCH3) is added to a solution of 2-aminopyridine (56 mg, 0.59 mmol) in toluene (1.0 mL) and 1,2-dichloroethane (1.0 mL) at room temperature. The resulting solution is stirred for 30 minutes at room temperature, 5-(1-methyl-piperidin-4-yloxy)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid ethyl ester (60 mg, 0.20 mmol) is then added. The resulting mixture is heated at 100° C. for a period of 3 h. The mixture is cooled to room temperature and Na2SO4.10H2O (285 mg, 0.89 mmol) is added. The mixture is stirred for 30 minutes and MeOH (5 mL) is added. The resulting mixture is filtered through a pad of celite and washed with MeOH (3×5 mL) and CHCl3 (3×5 mL). The filtrate is concentrated and purified by chromatography on silica (gradient elution with 5% MeOH/CHCl3 with 0.1% NH4OH to 8% MeOH/CHCl3 with 0.1% NH4OH to 10% MeOH/CHCl3 with 0.1% NH4OH) to give the title compound as a light yellow solid: (Cmp. #1) 1H NMR (400 MHz, CD3OD) δ 8.29-8.27 (m, 2H), 8.01 (s, 1H), 7.73-7.69 (m, 2H), 7.03 (dd, 1H, J=7.1, 5.4 Hz), 6.63 (d, 1H, J=8.7 Hz), 5.40-5.34 (m, 1H), 2.86-2.80 (m, 2H), 2.57-2.52 (m, 2H), 2.35 (s, 3H), 2.30-2.26 (m, 2H), 1.91-1.86 (m, 2H); 13C NMR (100 MHz, CD3OD) δ 163.9, 159.5, 152.4, 148.1, 139.1, 138.2, 131.6, 125.1, 124.1, 119.5, 114.2, 109.3, 107.2, 70.8, 53.6, 45.7, 30.8; MS (CI) m/z 352.3 (M+1).

reactant | AlMe3 | 0.59 mmol, 2 M, 0.3 mL | C[Al](C)C
reactant | 2-aminopyridine | 0.59 mmol, 56 mg | NC1=NC=CC=C1 | C5H6N2
reactant | 5-(1-methyl-piperidin-4-yloxy)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid ethyl ester | 0.20 mmol, 60 mg | C(C)OC(=O)C1=CNC=2C1=NC(=CC2)OC2CCN(CC2)C | C16H21N3O3
reactant | MeOH | 5 mL | CO | CH4O
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,2-dichloroethane | 1.0 mL | ClCCCl | C2H4Cl2
product | 5-(1-Methyl-piperidin-4-yloxy)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic Acid Pyridin-2-ylamide | N1=C(C=CC=C1)NC(=O)C1=CNC=2C1=NC(=CC2)OC2CCN(CC2)C | C19H21N5O2
